US06150373
A solution of 190 mg (0.6 mmol) of 2-[3-(3-nitrophenyl)-propyl]-isoindole-1,3-dione in 20 ml of ethanol was treated with 50 mg of 10% palladium on charcoal and shaken in an atmosphere of hydrogen for 2 hours. The mixture was filtered and the filtrate evaporated to give 120 mg (71%) of 2-[3-(3-aminophenyl)-propyl]-isoindole-1,3-dione as a yellow oil. [Mass spectrum (ESI) MH+ =281].

reactant | 2-[3-(3-nitrophenyl)-propyl]-isoindole-1,3-dione | 0.6 mmol, 190 mg | [N+](=O)([O-])C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 2-[3-(3-aminophenyl)-propyl]-isoindole-1,3-dione | 120 mg, 71% | NC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O2
